US06018050
Synthesis of (2S,4S)-4,5-dihydroxynorvaline (XXI)
[α]D21 =-23.9 (c =1.0, water) Further reactions analogously to J. Am. Chem. Soc. 1986, 108, 6041 lead to L-cis-4-hydroxyproline

reactant | L-cis-4-hydroxyproline | C1[C@@H](CN[C@@H]1C(=O)O)O | C5H9NO3
reactant | water | O | H2O
product | (2S,4S)-4,5-dihydroxynorvaline | O[C@@H](C[C@H](N)C(=O)O)CO | C5H11NO4
